US06878708B2
2-(2-Ethyl)octanoylaminopropionic Acid
18.6 g (0.211 mol) of D,L-alanine and 46.6 g (0.41 mol) of triethylamine are initially charged in 300 ml of dichloromethane. At 0° C., 50.09 g (0.461 mol) of trimethylsilyl chloride are added dropwise, and the mixture is stirred at room temperature for 1 h and then at 40° C. for 1 h. The solution is cooled to −10° C., and 40 g (0.21 mol) of 2-ethyloctanoyl chloride in 50 ml of dichloromethane are added dropwise. The mixture is stirred at room temperature overnight, 100 ml of water are then added dropwise with ice-cooling and the mixture is stirred for 10 minutes. The phases are separated, the aqueous phase is reextracted twice with in each case 100 ml of dichloromethane and the combined organic phases are dried over sodium sulfate and concentrated under reduced pressure. The residue is crystallized from toluene by adding n-hexane and is dried at 60° C.

reactant | D,L-alanine | 0.211 mol, 18.6 g | NC(C)C(=O)O | C3H7NO2
reactant | triethylamine | 0.41 mol, 46.6 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 0.461 mol, 50.09 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 2-ethyloctanoyl chloride | 0.21 mol, 40 g | C(C)C(C(=O)Cl)CCCCCC | C10H19ClO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 2-(2-Ethyl)octanoylaminopropionic Acid | CCC(C(=O)NC(C(=O)O)C)CCCCCC | C13H25NO3
